Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lumbar Back Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old Male transferred from ___ for concern of aortic 
dissection. The patient reports feeling well until 3 days prior 
to presentation when he returned from ___. He 
reports 3 days prior to admission he developed severe , sharp 
stabbing left sided back pain mostly at the lumbar level. He 
went to ___ and initially was diagnosed with 
musculoskeletal pain and sent out with pain medications. When 
this did not improve he returned to ___ ED where there was 
concern for an aortic dissection, so he underwent a CTA. By 
report the CTA was complicated by cardiac motion artifact, and 
they could not exclude an ascending aortic dissection so he was 
referred to ___ for cardiac surgery evaluation.  At ___ he 
received morphine without relief, along with Ativan presumably 
for muscle spasm. 

In the ___ ED his initial vitals signs were 98.3, 102, 149/97, 
18, 95%. In the ED her received numerous rounds of IV 
benzodiazopenes, diulaudid and ketorolac with relief mostly from 
the ketorolac. He also underwent gated CTA of the aorta here 
which was clear and did not demonstrate a dissection or 
aneurysm. CV surgery saw the patient in the ED and felt there 
was no need for surgical consultation given the absence of 
dissection.

The patient describes the pain as starting at his spine on the 
left side and radiating in a band like patter to his midline 
across the flank and abdomen. There is no radiation to the groin 
or testicals. Patient denies a rash on this area. The patient 
denies loss of bowel or bladder with the pain, although does 
note constipation with all the opioids he has received.

ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, + 
Constipation, - Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, + Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache
Remainder of 10 point ROS negative except as above
 
Past Medical History:
DVT's from Factor V ___
S/P Saphenous Vein removal due to DVT
R quadriceps muscle tear
Bilateral severe knee arthritis, planning knee replacement
 
Social History:
___
Family History:
Mother: HTN, DVT, Factor V Leiden
Father: HTN
Grandson Factor ___
 
Physical Exam:
Admission PHYSICAL EXAM:
VSS: 98.9, 123/85, 95, 18, 96%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: NT/ND, +BS, + Left CVAT
 EXT: - CCE
 NEURO: CAOx3, Motor ___ ___ Spread Flex/Ext, b/l - 
babinsky

Discharge exam:
Vitals reviewed and unremarkable, pain score ___ out of 10 
today, inputs and outputs reviewed and unremarkable.  
Middle-aged man seated in bed, standing at another time, alert, 
cooperative, NAD.  Anicteric, MMM.  Equal chest rise, CTAB, no 
WOB or cough.  Heart regular.  Abdomen soft, NTND.  Extremities 
warm and well-perfused, trace pitting edema bilaterally.  No 
significant tenderness to palpation anywhere on the back.
 
Pertinent Results:
Admission labs
___ 12:10AM BLOOD WBC-9.2 RBC-4.37* Hgb-13.2* Hct-39.0* 
MCV-89 MCH-30.2 MCHC-33.8 RDW-11.9 RDWSD-38.5 Plt ___
___ 12:10AM BLOOD Neuts-76.5* Lymphs-11.9* Monos-10.2 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-7.07* AbsLymp-1.10* 
AbsMono-0.94* AbsEos-0.07 AbsBaso-0.02
___ 12:10AM BLOOD ___ PTT-26.1 ___
___ 12:10AM BLOOD Glucose-103* UreaN-18 Creat-0.9 Na-137 
K-4.8 Cl-97 HCO3-28 AnGap-12
___ 04:18AM BLOOD cTropnT-<0.01
___ 12:10AM BLOOD cTropnT-<0.01 proBNP-<5
___ 12:10AM BLOOD CRP-46.0*
___ 12:29AM BLOOD Lactate-1.5
___ 02:38PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:38PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:00PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:38PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 02:00PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

___ 2:38 pm URINE     Site: NOT SPECIFIED      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

ECG Study Date of ___  4:24:48 AM  
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
105 197 83 ___   41 16 2 
 
BILAT LOWER EXT VEINS Study Date of ___ 1:39 AM 
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity veins. 
 
CTA CHEST  Study Date of ___ 2:02 AM 
IMPRESSION:
1. Normal caliber thoracic aorta without evidence dissection. 
2. Top-normal pulmonary artery diameter is equivocal for 
pulmonary arterial 
hypertension.  If clinically indicated, echocardiography could 
be performed to 
evaluate pulmonary arterial pressures. 
3. 2.8 cm left thyroid nodule.  Non-urgent thyroid ultrasound is 
recommended. 
  
RECOMMENDATION(S):   Thyroid nodule.  Ultrasound follow up 
recommended. 
___ College of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 
cm in patients age ___ or ___, or with suspicious findings. 
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or 
invasion of local tissues by the thyroid nodule. 
 
MR ___ SCAN WITH CONTRAST Study Date of ___ 6:21 AM 
IMPRESSION:   
1. No acute abnormality.  No evidence for epidural collection, 
cord signal abnormality or cord compression. 
2.  With multilevel degenerative changes throughout the spine 
with remodeling 
of the ventral cord  but no cord signal abnormality at the C5-C, 
T7-T8 
and T8-9 levels. 
3. Severe right neural foraminal narrowing at L4-L5. 
 
CT ABD & PELVIS W/O CONTRAST Study Date of ___ 4:10 ___ 
IMPRESSION:
No acute abdominopelvic findings.  No fracture. 
 
Discharge labs
___ 07:29AM BLOOD WBC-6.4 RBC-4.06* Hgb-12.0* Hct-36.8* 
MCV-91 MCH-29.6 MCHC-32.6 RDW-11.9 RDWSD-39.5 Plt ___
___ 07:29AM BLOOD ___
___ 07:29AM BLOOD Glucose-85 UreaN-14 Creat-0.8 Na-143 
K-4.5 Cl-103 HCO3-27 AnGap-13
___ 07:29AM BLOOD LD(LDH)-135
___ 07:29AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.9 Iron-43*
___ 07:29AM BLOOD calTIBC-261 VitB12-579 Hapto-409* 
Ferritn-612* TRF-201
___ 07:29AM BLOOD CRP-152.7*
___ 12:10AM BLOOD CRP-46.0*
 
Brief Hospital Course:
___ man with past medical history of bilateral knee 
arthritis, presenting with acute onset left mid back pain, with 
imaging revealing multilevel degenerative changes throughout the 
spine, especially C5 through 7, T7 through 9, L1, and L4 through 
5, with disc protrusions and foraminal narrowing.

With conservative treatment the patient improved.  On the day of 
discharge he was able to move around sufficiently that he would 
be able to function at home.  I discussed his prognosis, the 
medication plan, the follow-up plan, with him and his wife at 
the bedside at length.  They had no additional questions.

#Acute back pain
#Multilevel degenerative spine changes
-Initially there was some concern for aortic dissection, or 
nephrolithiasis, but with multiple imaging studies neither of 
these, nor any other obvious etiology was found
-patient's acute back pain correlated with the thoracic findings 
on his MRI
-case discussed informally with ___ who felt that the 
patient's history and imaging as reported by me indicated no 
role for surgical intervention
-In the hospital received ketorolac, transition this to Naprosyn 
on discharge, continue standing acetaminophen, low-dose 
diazepam, and transitioned from IV hydromorphone to p.o.
oxycodone with good effect
-continue bowel regimen

#Elevated CRP
-This was of unclear etiology, but the patient had no other 
signs or symptoms of an autoimmune or rheumatological problem
-His current sources of inflammation include his bilateral 
chronic knee arthritis, is acute back pain, and his torn right 
quadriceps
-Reasonable to follow-up this issue as an outpatient, perhaps 
with a recheck of the CRP, and further testing at that time 
depending on his clinical context

#Mild anemia (Hb 12)
-reticulocyte count suggested a somewhat hypoproliferative 
process (it was 1.0), hemolysis labs were negative, and 
iron/ferritin and B12 are normal
–Could be an inflammatory block (elevated CRP certainly suggest 
some inflammation), although the etiology of that is unclear as 
noted above
-Recommend outpatient follow-up

#Incidentally found 2.8 cm left thyroid nodule
-Nonurgent thyroid ultrasound as an outpatient, patient and wife 
are aware

#Incidentally discovered "Top-normal pulmonary artery diameter 
is equivocal for pulmonary arterial hypertension.  If clinically 
indicated, echocardiography could be performed to
evaluate pulmonary arterial pressures."
–This was not clinically indicated during this admission, 
deferring to the outpatient setting for more evaluation

#Factor V Leiden
-No signs of thrombosis at this time, he had no vital sign 
abnormalities, no shortness of breath, no cough, and CTA chest 
showed no pulmonary embolism
-he is not on anticoagulation, but he is on aspirin 81 mg daily, 
which was continued on discharge

[x] The patient is safe to discharge today, and I spent [ ] 
<30min; [x] >30min in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Acute left sided thoracic back pain
#Multilevel degenerative spine/disc disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with acute onset of left-sided back pain.  
With medications and time you improved, and you were able to 
work with physical therapy before being discharged.  Please use 
the medications you're being prescribed to control your pain, 
and follow-up as noted below.
 
Followup Instructions:
___